US08648066B2
To a solution of 6-bromo-2-methyl-1H-imidazo[4,5-b]pyridine (3.0 g, 14.1 mmol) in a mixture of N,N-dimethylformamide and tetrahydrofuran (30 mL, 2:1) at 0° C. was added 60% sodium hydride in mineral oil (0.68 g, 17.0 mmol) and the reaction mixture was stirred for 30 minutes, followed by the addition of 2-(trimethylsilyl)ethoxymethyl chloride (2.7 mL, 14.9 mmol). The reaction mixture was stirred for 16 hours at room temperature then it was quenched by the careful addition of water and diluted with ethyl acetate (250 mL), washed with brine (3×150 mL), dried over sodium sulfate, filtered and concentrated. Gradient column chromatography (10% to 30% ethyl acetate in hexane) provided 6-bromo-2-methyl-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazo[4,5-b]pyridine (4.4 g, 92%). 1H NMR (400 MHz, CDCl3): 8.41 (s, 1H), 8.12 (s, 1H), 5.67 (s, 2H), 3.62 (m, 2H), 2.76 (s, 3H), 0.96 (m, 2H), 0.00 (s, 9H). MS (EI) for C13H20BrN3OSi: 342, 344 (MH+, Br iotope pattern).

reactant | 6-bromo-2-methyl-1H-imidazo[4,5-b]pyridine | 14.1 mmol, 3.0 g | BrC=1C=C2C(=NC1)N=C(N2)C | C7H6BrN3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 14.9 mmol, 2.7 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 6-bromo-2-methyl-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazo[4,5-b]pyridine | 4.4 g, 92% | BrC=1C=C2C(=NC1)N=C(N2COCC[Si](C)(C)C)C | C13H20BrN3OSi
